US05017573
Preparation of 6-benzensulfonylamino-1-benzyl-4-methylhexahydro-1H-1,4-diazepine:
A mixture of 1-benzenesulfonyl-2-bromomethylethylenimine (27.2 g), N-benzyl-N'-methylethylenediamine (16.2 g), triethylamine (19.9 g) and chloroform (350 ml) is refluxed with stirring for 5 hours. The solvent is evaporated under reduced pressure, and the residue is purified by silica gel chromatography to give the title compound (7.9 g) as an oil.

reactant | 1-benzenesulfonyl-2-bromomethylethylenimine | 27.2 g | C1(=CC=CC=C1)S(=O)(=O)N1C(C1)CBr | C9H10BrNO2S
reactant | N-benzyl-N'-methylethylenediamine | 16.2 g | C(C1=CC=CC=C1)NCCNC | C10H16N2
reactant | triethylamine | 19.9 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 350 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-benzensulfonylamino-1-benzyl-4-methylhexahydro-1H-1,4-diazepine | 7.9 g | C1(=CC=CC=C1)S(=O)(=O)NC1CN(CCN(C1)CC1=CC=CC=C1)C | C19H25N3O2S
